US07863271B2
Glacial HOAc (1.5 mL) was added dropwise at room temperature to a well stirred solution of (R)-(+)-2-amino-1-propanol (10.0 g, 133 mmol) and benzaldehyde (13.5 mL, 133 mmol) in CH3OH (260 mL). The reaction mixture was stirred at room temperature for 1.5 h followed by addition of NaCNBH3 (12.6 g, 200 mmol) and the reaction stirred at room temperature overnight. The reaction was concentrated under reduced pressure and the recovered solids dissolved in EtOAc (500 mL) and then washed with saturated bicarbonate (2×250 mL), H2O (250 mL) and saturated brine (250 mL). The organic phase was then dried over Na2SO4, filtered and concentrated to yield (R)-2-(benzylamino)propan-1-ol (19.8 g, 94%) as a colorless oil: MS consistent.

reactant | HOAc | 1.5 mL | CC(=O)O | C2H4O2
reactant | (R)-(+)-2-amino-1-propanol | 133 mmol, 10.0 g | N[C@@H](CO)C | C3H9NO
reactant | benzaldehyde | 133 mmol, 13.5 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaCNBH3 | 200 mmol, 12.6 g | [BH3-]C#N.[Na+]
solvent | CH3OH | 260 mL | CO | CH4O
product | (R)-2-(benzylamino)propan-1-ol | 19.8 g, 94% | C(C1=CC=CC=C1)N[C@@H](CO)C | C10H15NO
